US06821967B2
9-{4-[4-(8-chloro-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 8-chloro-2-piperazin-1-yl-quinoline. Melting point: 68° C. C33H32ClF3N4O2 (M=609.09) Calc.: molecular peak (M+H)+: 609/611. Found: molecular peak (M+H)+: 609/611.

reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO2
reactant | 8-chloro-2-piperazin-1-yl-quinoline | ClC=1C=CC=C2C=CC(=NC12)N1CCNCC1 | C13H14ClN3
product | 9-{4-[4-(8-chloro-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1CCN(CC1)C1=NC2=C(C=CC=C2C=C1)Cl)(F)F | C33H32ClF3N4O2
